US06436306B1
A: Synthesis of lysine—Allyl Glycidyl Ether (AGE) Adduct
10.0 g (54.7 mmol) of lysine monohydrochloride and a 31.8% NaOH solution (5.0 g of deionized water/8.75 g 50% NaOH) are placed into a round-bottomed flask equipped with a stirrer, nitrogen inlet and a thermoregulator. This mixture is heated with stirring. When a temperature of 650° C. is reached, 6.25 g (54.7 mmol) allyl glycidyl ether (AGE) is added over a one hour period. The reaction mixture is then stirred for two hours at 65° C., after which time the reaction is complete as determined by gas chromatography. This product is obtained as a clear yellow solution of 62.5% solids by weight.

reactant | lysine monohydrochloride | 54.7 mmol, 10.0 g | Cl.N[C@@H](CCCCN)C(=O)O
reactant | NaOH | 5.0 g | [OH-].[Na+]
reactant | allyl glycidyl ether | 54.7 mmol, 6.25 g | C(C1CO1)OCC=C | C6H10O2
product | lysine Allyl Glycidyl Ether | 62.5% | N[C@@H](CCCCN)C(=O)O.C(C1CO1)OCC=C | InChI=1S/C6H14N2O2.C6H10O2/c7-4-2-1-3-5(8)6(9)10;1-2-3-7-4-6-5-8-6/h5H,1-4,7-8H2,(H,9,10);2,6H,1,3-5H2/t5-;/m0./s1
